US04652563
To a flask charged with redistilled dimethylsulphoxide (50 ml) and sodium hydride (50% dispersion, 4.8 g) was slowly added 2-(4-allyloxyphenyl)ethanol (17.8 g) at ice-bath temperature. Cyclopropylmethyl bromide (13.5 g) in dry dimethyl sulphoxide (20 ml) was added with cooling under nitrogen. The reaction mixture was stirred at room temperature overnight, poured on to ice-water and extracted into diethyl ether. The organic layer was thoroughly washed with saturated brine, evaporated under reduced pressure and chromatographed on silica using petroleum ether (40°-60°) as an eluant to afford 1-allyloxy-4-[2-(cyclopropylmethoxy)ethyl]benzene (9 g).

reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | 2-(4-allyloxyphenyl)ethanol | 17.8 g | C(C=C)OC1=CC=C(C=C1)CCO | C11H14O2
reactant | Cyclopropylmethyl bromide | 13.5 g | C1(CC1)CBr | C4H7Br
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 1-allyloxy-4-[2-(cyclopropylmethoxy)ethyl]benzene | 9 g | C(C=C)OC1=CC=C(C=C1)CCOCC1CC1 | C15H20O2
